Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of Alzheimer's dementia, hypothyroidism who 
presented to the ED from nursing home after episode of loss of 
consciousness at 8 ___ this evening. She was in a chair and had 
no head strike. CPR was initiated, however, she regained 
consciousness rapidly. She was notably drowsy, but speaking 
appropriately. Her heart rate was in the ___ and she was 
given atropine with improvement in HR.  
 Per her family, she has become more lethargic and drowsy over 
the last few weeks. With respect to her AD, she was recently 
started on Risperdal due to some agitation. On ___, she was 
having more tearful episodes and plan was made to start 
trazodone with possible taper of Risperdal.  
 In the ED, initial VS were 97.2 60 98/55 18 95% R. EKG showed 
sinus bradycardia without ischemia/QTc abnormalities. CXR showed 
no acute process. CBC/chem-7/lactate were WNL and troponin 
<0.01. Vitals on transfer to floor were HR 49 BP 119/60.  
 On arrival to the floor, patient denies any dyspnea or 
lightheadedness. When asked about chest pain, she points to her 
chest but is unable to verbalize yes or no. Per her family, she 
had no urinary incontinence or tongue biting during the episode. 
They also note that she has not been coughing recently and has 
had good PO intake.  
 REVIEW OF SYSTEMS:  
 (+) Drowsiness, falling asleep often in the day  
 (-) Difficult to obtain, but through family limited 10-point 
ROS negative.  

 
Past Medical History:
Alzheimer's dementia  
Hypothyroidism after radioactive iodine for graves  
Hypertension
Arthritis
Back Pain
Colon Polyp
HLD
Osteopenia
Oopherectomy

 
Social History:
___
Family History:
Father and Brother with MI. No familial history of sudden death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS - T 97.6 52 20 127/79 100RA 67.3 kg  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact. Alert. Oriented to self only.  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 

PHYSICAL EXAM:  
VS - 98.1 62 127/70 20 94%RA
GENERAL: NAD, AOx1
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, pt not able to take deep breaths on exam 
ABDOMEN: nondistended and non-tender to palpation
EXTREMITIES: no cyanosis, or edema
NEURO: Alert. Oriented to self only.  
SKIN: warm and well perfused. No edema.
 
Pertinent Results:
PERTINENT LABS:
==================
___ 08:45PM BLOOD WBC-3.5* RBC-3.74* Hgb-11.6 Hct-34.6 
MCV-93 MCH-31.0 MCHC-33.5 RDW-12.2 RDWSD-41.0 Plt ___
___ 08:45PM BLOOD Neuts-54.3 ___ Monos-12.5 Eos-2.8 
Baso-0.6 Im ___ AbsNeut-1.91 AbsLymp-1.04* AbsMono-0.44 
AbsEos-0.10 AbsBaso-0.02
___ 06:20AM BLOOD WBC-4.7 RBC-4.12 Hgb-12.7 Hct-38.4 MCV-93 
MCH-30.8 MCHC-33.1 RDW-12.2 RDWSD-41.8 Plt ___
___ 08:52PM BLOOD ___ PTT-27.3 ___
___ 08:45PM BLOOD Glucose-109* UreaN-9 Creat-0.7 Na-138 
K-3.5 Cl-105 HCO3-27 AnGap-10
___ 06:20AM BLOOD Glucose-100 UreaN-9 Creat-0.7 Na-140 
K-4.2 Cl-105 HCO3-29 AnGap-10
___ 08:45PM BLOOD cTropnT-<0.01
___ 06:20AM BLOOD CK-MB-7 cTropnT-<0.01
___ 06:20AM BLOOD Calcium-9.6 Phos-4.2 Mg-2.1
___ 08:45PM BLOOD TSH-0.075*
___ 06:20AM BLOOD T4-12.1* Free T4-2.6*
___ 08:51PM BLOOD Lactate-0.9
___ 10:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:30PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 10:30PM URINE RBC-1 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 10:30PM URINE CastHy-4*
___ 10:30PM URINE Mucous-RARE

MICRO
============================
___ 8:44 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 6:20 am SEROLOGY/BLOOD

   LYME SEROLOGY (Pending): 

IMAGING

IMAGING/REPORTS
============================
Radiology Report CHEST (PORTABLE AP) Study Date of ___ 
8:51 ___ 
FINDINGS:  The cardiomediastinal and hilar contours are normal.  
There is no pneumothorax or pleural effusion.  Lung volumes are 
low, and there is bibasilar atelectasis.  There is no focal 
consolidation concerning for pneumonia.  Interstitial markings 
are likely accentuated by low lung volumes.  
IMPRESSION:  Low lung volumes with bibasilar atelectasis.  No 
pneumonia. 

 
Brief Hospital Course:
___ with history of Alzheimer's dementia, hypothyroidism who 
presented to the ED from nursing home after episode of loss of 
consciousness. 

# Syncope/Sinus Bradycardia: Patient was found to be bradycardic 
and hypotensive during this episode. She regained consciousness 
immediately, the family report performing CPR. During hospital 
stays she was monitored on tele with no events. Troponins were 
negative. Orthostatics were negative. No evidence of infection.  
Lyme serologies were checked and are pending on discharge.  
Bradycardia may have been cause of syncope or result of a vagal 
episode. Pt has no history of bradycardia or other cardiac 
arrhythmias. Etiology may be med effect. Risperidone has 4% 
incidence of bradycardia and was started recently. Donepezil can 
also cause bradycardia however patient has been stabilized on 
this medication. Risperidone was discontinued and she was 
started on olanazapine PRN for agitation. Patient was stable and 
back to baseline on discharge. She can also use ___ stockings 
while awake/sitting/standing to prevent changes in blood 
pressures. 

#Low TSH/Iatrogenic Hyperthyroidism - Her TSH was noted to be 
low with elevated T4 likely due to increased dose of her 
levothyroxine. Her husband notes that PCP had recently asked 
them to decrease levothyroxine dosing to 6x/week from daily 
dosing. They had not made that medication change yet. Patient 
will need repeat testing of thyroid as an outpatient. Switched 
to 6x/week dosing of levothyroxine. On review of medication list 
prior to discharge patient was noted to have incorrect dose of 
levothyroxine ordered. She was ordered to 175mcg while her 
listed dose on her medication list was 112mcg. She had received 
2 elevated doses of levothyroxine. She was restarted on 112mcg 
prior to discharge. Further evaluation of thyroid function tests 
can be done as an outpatient.

# Alzheimer's: Patient was at baseline per family. She was AOx1. 
Her resperidone was held as patient has had recent increase in 
somnolence and bradycardia. Continued on home meds. Started on 
olanzapine PRN agitation. 

#HTN: stable. Continued home losartan  

#CODE STATUS: Patient was DNR/DNI prior to hospitalization, HCP 
reversed her code status given syncope while hospitalized. She 
will return to being DNR/DNI on discharge.

TRANSITIONAL ISSUES
========================
- Risperdal discontinued as it can cause bradycardia
- Trazadone decreased to 25mg PO QHS PRN insomnia
- Olanzapine 2.5mg can be used PRN agitation
- Patient found to have low TSH and elevated free T4 this is 
likely due to increased dosage of levothyroxine. TSH should be 
reevaluated as an outpatient and dosage of levothyroxine should 
be decreased
- Patient may required higher level of care at her current 
facility
She can also use ___ stockings while awake/sitting/standing to 
prevent changes in blood pressures. 
- Please consider discontinuing simvastatin and baby aspirin as 
there is limited role in primary prevention of cardiovascular 
event; may help decrease pill burden
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Memantine 10 mg PO DAILY 
2. RISperidone 0.5 mg PO X2 PRN agitation 
3. Levothyroxine Sodium 175 mcg PO DAILY 
4. TraZODone 50 mg PO QHS 
5. Losartan Potassium 50 mg PO DAILY 
6. Ranitidine 300 mg PO DAILY 
7. Simvastatin 40 mg PO QPM 
8. Donepezil 10 mg PO DAILY 
9. Divalproex (DELayed Release) 125 mg PO BID 

 
Discharge Medications:
1. Divalproex (DELayed Release) 125 mg PO BID 
2. Losartan Potassium 50 mg PO DAILY 
3. Memantine 10 mg PO DAILY 
4. Ranitidine 300 mg PO DAILY 
5. Simvastatin 40 mg PO QPM 
6. TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth at bedtime 
Disp #*15 Tablet Refills:*0
7. OLANZapine 2.5 mg PO DAILY:PRN agitation 
RX *olanzapine 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
8. Levothyroxine Sodium 112 mcg PO 6X/WEEK (___) 
9. Aspirin 81 mg PO DAILY 
10. Bisacodyl 10 mg PO DAILY:PRN constipation 
11. calcium carbonate-vitamin D3 1,000 mg(2,500 mg)-800 unit 
oral DAILY 
12. Diclofenac Sodium ___ 50 mg PO DAILY:PRN pain 
13. Omeprazole 40 mg PO BID 
14. Vitamin D 1000 UNIT PO DAILY 
15. Donepezil 20 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: SYNCOPE, BRADYCARDIA 
SECONDARY: HYPOTHYROIDISM, ALZHEIMER'S DISEASE 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___. You were hospitalized after a syncopal 
event. You were found to have a slow heart rate. Your heart was 
monitored with no evidence of irregular rhythm. Your risperidal 
was discontinued as this medication can occasionally cause slow 
heart rates. Please talk to your doctor about restarting these 
medications.  You will need to talk to your doctor about 
decreasing the dose of your thyroid medication.

You will need to follow up with your primary care doctor and 
neurologists. 

Happy Holidays!

Sincerely,

Your ___ Cardiology Team

 
 
Followup Instructions:
___